US09233979B2
6-chloro-N-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (400 mg, 0.941 mmol), 1-(phenyl(tetrahydrofuran-2-yl)methyl)urea (228 mg, 1.035 mmol), cesium carbonate (920 mg, 2.82 mmol) and BrettPhos precatalyst (52.6 mg, 0.066 mmol) were taken up in dioxane (9.5 ml) in a 20 mL microwave vial. The vial was evacuated and back-filled with N2 (×3). The reaction mixture was stirred at 100° C. for two hours. Room temperature was attained. The crude reaction mixture was diluted with EtOAc and filtered through celite. The filtrate was concentrated in vacuo, taken up in 5 ml of DCM, and purified on silica gel 5-50% DCM/EtOAc to give 1-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea. MS ESI calc'd. for C38H37N6O2 [M+H]+ 609. found 609.

reactant | 6-chloro-N-methyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 0.941 mmol, 400 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC | C26H21ClN4
reactant | 1-(phenyl(tetrahydrofuran-2-yl)methyl)urea | 1.035 mmol, 228 mg | C1(=CC=CC=C1)C(NC(=O)N)C1OCCC1 | C12H16N2O2
reactant | cesium carbonate | 2.82 mmol, 920 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | BrettPhos precatalyst | 0.066 mmol, 52.6 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | dioxane | 9.5 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea | CNC1=NN(C2=C1C=NC(=C2)NC(=O)NC(C2OCCC2)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H36N6O2
